US06730675B2
(tert-Butoxy)-N-[(2,4,6-trimethylphenyl)amino]carboxamide:
A suspension of 2,4,6-trimethylphenylhydrazine hydrochloride (15.02 g, 80.46 mmol) in saturated aqueous NaHCO3 was stirred for 10 minutes and then treated with solid K2CO3 (18.97 g, 137.25 mmol). The resulting fine light yellow suspension was stirred for 10 minutes. A solution of di-tert-butyldicarbonate (25.03 g, 89.00 mmol) in 375 mL THF was added over 5 minutes and the resulting biphasic mixture was vigorously stirred for 3 hours. The reaction mixture was partitioned in water and the aqueous layer was extracted with diethyl ether (3×75 mL). The combined organic layers were washed with saturated NaCl (2×100 mL) and distilled water (2×100 mL), dried over MgSO4, and concentrated under reduced pressure. Drying in vacuo afforded an orange oil which crystallized upon standing. The material was triturated in 5% diethyl ether in hexanes overnight to afford a beige solid which was isolated by filtration (13.82 g). The solid was recrystallized from diethyl ether/hexanes to afford 11.85 g (59%) of the desired product as a cream colored solid. The filtrates from the trituration and crystallization were combined and concentrated to afford 13.50 g of material which was purified by flash chromatography on silica gel using 25:75 diethyl ether:hexanes as eluant. This afforded an additional 4.69 g (23%) of the title compound. 1H NMR (300 MHz, CDCl3): δ 6.79 (s, 2 H), 6.25 (bs, 1 H), 5.65 (bs, 1 H), 2.34 (s, 6 H), 2.22 (s, 3 H), 1.40 (s, 9 H); MS (CI) m/z 249.

reactant | 2,4,6-trimethylphenylhydrazine hydrochloride | 80.46 mmol, 15.02 g | Cl.CC1=C(C(=CC(=C1)C)C)NN
reactant | K2CO3 | 137.25 mmol, 18.97 g | C(=O)([O-])[O-].[K+].[K+]
reactant | di-tert-butyldicarbonate | 89.00 mmol, 25.03 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 375 mL | C1CCOC1 | C4H8O
product | (tert-Butoxy)-N-[(2,4,6-trimethylphenyl)amino]carboxamide | 11.85 g, 59% | C(C)(C)(C)OC(=O)NNC1=C(C=C(C=C1C)C)C | C14H22N2O2
